US06329366B1
N-(1-methylethyl)-4-methylthio-2-nitrobenzamide.
A solution of 4-methylthio-2-nitrobenzoic acid (3.07 g, 0.01439 mol) [Lit. Ref. DE 2421541], isopropylamine (1.47 ml, 0.01728 mol) and pyridine (100 ml) was cooled in an ice bath. Silicon tetrachloride (2.01 ml, 0.01728 mol) was added dropwise under nitrogen over 15 mins. After stirring at room temperature for 2 hr the solution was refluxed for 7 hr, then allowed to cool to room temperature. The solution was added to water and concentrated in vacuo. The precipitate was dissolved in dichloromethane and washed twice with 1N hydrochloric acid (150 ml), dried and concentrated in vacuo to afford 2.82 g of amorphous yellow solid. δ(1H NMR, CDCl3, ppm): 1.10 (6H, d), 2.50 (3H, s), 4.2 (1H, m), 5.50 (1H, s), 7.35 (2H, m), 7.75 (1H, s).

reactant | 4-methylthio-2-nitrobenzoic acid | 0.01439 mol, 3.07 g | CSC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4S
reactant | isopropylamine | 0.01728 mol, 1.47 ml | C(C)(C)N | C3H9N
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | Silicon tetrachloride | 0.01728 mol, 2.01 ml | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | water | O | H2O
product | N-(1-methylethyl)-4-methylthio-2-nitrobenzamide | 2.82 g | CC(C)NC(C1=C(C=C(C=C1)SC)[N+](=O)[O-])=O | C11H14N2O3S
